US06525042B1
1-(4-Bromo-2-methylbenzoyl)-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine
In a similar manner to Referential Example 12 except for the use of 4-bromo-2-methylbenzoic acid and 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | 4-bromo-2-methylbenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
product | 1-(4-Bromo-2-methylbenzoyl)-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | BrC1=CC(=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=C(C=C3C=C2)Cl)C=C1)C | C22H20BrClN2O3S
